US08026234B2
Compound 134: 9-cyclopentyl-2-(4-(4-(cyclopropylmethyl)piperazine-1-carbonyl)-2-methoxyphenylamino)-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
The title compound was synthesized from 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the general procedure for amide bond synthesis using HATU and 1-(cyclopropylmethyl)piperazine. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.07 (br. s., 2H) 0.47 (br. s., 2H) 1.55 (br. s., 5H) 1.68 (br. s., 2H) 1.90 (br. s., 2H) 2.21 (br. s., 1H) 2.40-2.48 (m, 3H) 3.31 (s, 4H) 3.32 (br. s., 3H) 3.88 (s, 3H) 4.03 (t, J=13.89 Hz, 2H) 4.64-4.76 (m, 1H) 6.96 (d, J=8.84 Hz, 1H) 7.04 (s, 1H) 8.00 (s, 1H) 8.15 (d, J=7.83 Hz, 1H) 8.23 (s, 1H). [M+H] calculated for C29H37F2N7O3, 570. found 570.

reactant | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(cyclopropylmethyl)piperazine | C1(CC1)CN1CCNCC1 | C8H16N2
product | 9-cyclopentyl-2-(4-(4-(cyclopropylmethyl)piperazine-1-carbonyl)-2-methoxyphenylamino)-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C=C2)C(=O)N2CCN(CC2)CC2CC2)OC | C29H37F2N7O3
